US06306871B1
2-Iodo-5-Nitrobenzoic Acid
2-Iodobenzoic acid (100 g) was dissolved in 400 mL of concentrated sulphuric acid and placed in a 2 liter 3 necked flask. The flask was fitted with reflux condenser, a thermometer and an addition funnel. Fuming nitric acid (400 ml) was added drop by drop. The addition was adjusted in such a way that the temperature was allowed to raise to 80° C. over a period of 2 hours. During the addition, the reaction mixture was stirred vigorously and maintained the temperature at 80° C. for an additional 2 hours. After the completion of the reaction, the reaction mixture was poured slowly into crushed ice (3 Kg). The contents were allowed to settle and were filtered. The yellow precipitate was collected and dried at 30° C. The yield was 90 grams.

reactant | 2-Iodobenzoic acid | 100 g | IC1=C(C(=O)O)C=CC=C1 | C7H5IO2
reactant | nitric acid | 400 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulphuric acid | 400 mL | S(O)(O)(=O)=O | H2O4S
product | 2-Iodo-5-Nitrobenzoic Acid | IC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4INO4
